US06063806
N-[3-(2-Carboxyethyl)-4,6-dimethylindolin-7-yl]-2,2-dimethylpropanamide (1.5 g) was dissolved in AcOEt (10 ml) and a solution of CH2N2 in ether was added. AcOEt (100 ml) was added, and after washing with water, the mixture was dried over anhydrous sodium sulfate. AcOEt was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: CHCl3 /MeOH=50/1-10/1) to give 1.0 g of N-[3-(2-methoxycarbonylethyl)-4,6-dimethylindolin-7-yl]-2,2-dimethylpropanamide.

reactant | N-[3-(2-Carboxyethyl)-4,6-dimethylindolin-7-yl]-2,2-dimethylpropanamide | 1.5 g | C(=O)(O)CCC1CNC2=C(C(=CC(=C12)C)C)NC(C(C)(C)C)=O | C18H26N2O3
reactant | AcOEt | 10 ml | CCOC(=O)C | C4H8O2
reactant | AcOEt | 100 ml | CCOC(=O)C | C4H8O2
solvent | ether | CCOCC | C4H10O
product | N-[3-(2-methoxycarbonylethyl)-4,6-dimethylindolin-7-yl]-2,2-dimethylpropanamide | 1.0 g | COC(=O)CCC1CNC2=C(C(=CC(=C12)C)C)NC(C(C)(C)C)=O | C19H28N2O3
